US05210086
5.2. 4-[(5-Chloro-2-methoxyphenoxy)methyl]-1-piperidinepropanamine hydrochloride
9.5 g (0.017 mol) of 4-[(5-chloro-2-methoxyphenoxy)methyl]-N-(triphenylmethyl)-1-piperidinepropanamine are suspended in 215 ml of methanol. The reaction mixture is cooled to 0° C. and gaseous hydrochloric acid is bubbled in. The reaction mixture is allowed to return to room temperature and is evaporated to dryness, and the product obtained is recrystallised in an MeOH/AcOEt (50 ml:150 ml) mixture. Yield: 84.9%, M.p. 153°-157° C.

reactant | 4-[(5-chloro-2-methoxyphenoxy)methyl]-N-(triphenylmethyl)-1-piperidinepropanamine | 0.017 mol, 9.5 g | ClC=1C=CC(=C(OCC2CCN(CC2)CCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)OC | C35H39ClN2O2
solvent | methanol | 215 ml | CO | CH4O
product | 4-[(5-Chloro-2-methoxyphenoxy)methyl]-1-piperidinepropanamine hydrochloride | Yield: 84.9% | Cl.ClC=1C=CC(=C(OCC2CCN(CC2)CCCN)C1)OC | InChI=1S/C16H25ClN2O2.ClH/c1-20-15-4-3-14(17)11-16(15)21-12-13-5-9-19(10-6-13)8-2-7-18;/h3-4,11,13H,2,5-10,12,18H2,1H3;1H
